datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)C.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CCCCCC)C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21][H])([O]CC)[S]C.[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([O]CC)[S]C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)C)CCCCCC)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)C)CCCCCC)CCCCCC 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[NH:10](C)C(C)C([H])N([C:20](C)=[O:21])[H]>>[O-:21][C:20]1(C)[NH+:10](C)C(C)C([H])N1[H] 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([Na])C(C)C(O)C1C>>[O:10]([Na])C(C)C(O)C([C:20]([H])=[O:21])C 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[S:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[O-:10]C(CCC)C(C)C([H])C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C([H])C(C)C(CCC)[O:10]1 10=20;20,21=21"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)CC>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCC)C1=CC=CC=C1)CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)[H])CCCCCC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C([O-:21])C)C1=CC=CC=C1)[H]>>[H]N([C:20]1(OC(C([O:21]1)C)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])[NH][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CCCCCC)C>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)C.[O-:21]CC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H]N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)[H])[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C([H])C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S]C([H])C(C)[S]1 10=20;20,21=21"
"CC[O+:10]([Li])[C:21]([O-:20])(OC)OCCCCCC>>[O:20]=[C:21](OC)OCCCCCC.CC[O:10][Li] 20=21;21,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:10](C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10][H].C[NH+:21]=[C:20]([O]C)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C)([O]C)[O]C 10=20;20,21=21"
"[CH:20](=[OH+:21])CC.[F-:10]>>[CH:20]([OH:21])([F:10])CC 10=20;20,21=21"
"[H][S+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
